US07550598B2
(Z)—N-(4-(6-methoxy-2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide
3-Propyl-1H-pyrazol-5(4H)-one (1.16 mmol) and 4-chloro-6-methoxyquinoline 1-oxide (0.15 g, 1.16 mmol) were stirred in acetic anhydride (3 mL) at ambient temperature for 30-40 minutes. The reaction mixture was concentrated and the resulting solid was filtered off and washed with a minimum amount of ether. (Z)-4-(4-chloro-6-methoxyquinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one (0.06 g, 0.016 mmol) was dissolved in ethanol (1.5 mL) and 4-acetamidothiophenol (0.028 g, 0.016 mmol) was added. The reaction mixture was heated to 180° C. using a microwave reactor for 5-10 minutes. The mixture was then concentrated and the resulting solid filtered and washed with ether to give Example 45. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.71 (t, J=7.33 Hz, 3H) 1.27-1.37 (m, J=7.48, 7.48, 7.48, 7.48, 7.48 Hz, 2H) 2.11 (s, 3H) 2.31 (t, J=7.45 Hz, 2H) 3.96 (s, 3H) 6.83 (s, 1H) 7.42 (d, J=2.78 Hz, 1H) 7.57 (dd, J=9.09, 2.27 Hz, 1H) 7.68 (d, J=8.59 Hz, 2H) 7.87 (d, J=8.59 Hz, 2H) 8.00 (d, J=9.35 Hz, 1H) 10.36 (s, 1H); ESI-MS: m/z calc'd for C24H24N4O3S 448.54. found 449.2 (M+H)+.

reactant | 3-Propyl-1H-pyrazol-5(4H)-one | 1.16 mmol | C(CC)C1=NNC(C1)=O | C6H10N2O
reactant | 4-chloro-6-methoxyquinoline 1-oxide | 1.16 mmol, 0.15 g | ClC1=CC=[N+](C2=CC=C(C=C12)OC)[O-] | C10H8ClNO2
reactant | (Z)-4-(4-chloro-6-methoxyquinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | 0.016 mmol, 0.06 g | ClC1=C/C(/NC2=CC=C(C=C12)OC)=C/1\C(=NNC1=O)CCC | C16H16ClN3O2
reactant | 4-acetamidothiophenol | 0.016 mmol, 0.028 g | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
solvent | acetic anhydride | 3 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | (Z)—N-(4-(6-methoxy-2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide | COC=1C=C2C(=C/C(/NC2=CC1)=C/1\C(=NNC1=O)CCC)SC1=CC=C(C=C1)NC(C)=O | C24H24N4O3S
